US08729102B2
E) tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]phenoxy}-1-methylethyl]carbamate
(Aminooxy)(hydroxy)sulfane dioxide (679 mg) was dissolved in water (3 mL), and saturated aqueous sodium hydrogen carbonate solution was added dropwise thereto at 0° C. to neutralize the solution. To the obtained mixture was added a solution of tert-butyl [(1S)-2-(4-{[5-(cyclopropylmethoxy)pyridin-2-yl]ethynyl}phenoxy)-1-methylethyl]carbamate (845 mg) in methanol (5 mL) at room temperature, and the mixture was stirred at 60° C. overnight, and concentrated under reduced pressure. To the residue were added DMF (8 mL) and potassium carbonate (829 mg), and the mixture was stirred at room temperature for 4 hr. The reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate and water, and the aqueous layer was separated from the organic layer. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a colorless solid (134 mg).

reactant | (Aminooxy)(hydroxy)sulfane dioxide | 679 mg | NOS(O)(=O)=O | H3NO4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | tert-butyl [(1S)-2-(4-{[5-(cyclopropylmethoxy)pyridin-2-yl]ethynyl}phenoxy)-1-methylethyl]carbamate | 845 mg | C1(CC1)COC=1C=CC(=NC1)C#CC1=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H30N2O4
solvent | water | 3 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | tert-butyl [(1S)-2-{4-[6-(cyclopropylmethoxy)pyrazolo[1,5-a]pyridin-2-yl]phenoxy}-1-methylethyl]carbamate | 134 mg | C1(CC1)COC=1C=CC=2N(C1)N=C(C2)C2=CC=C(OC[C@H](C)NC(OC(C)(C)C)=O)C=C2 | C25H31N3O4
